US05256675
A mixture of 2-acetylamino-5-chlorothiazole (5 g), 4-nitrothiophenol (4.83 g) and potassium carbonate (7.8 g) in N,N-dimethylformamide (100 ml) was heated at 120° C. for 3 hours with stirring. The reaction mixture was poured into ice-water. The precipitates were collected by filtration, washed with water and dried in vacuo to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 200 g) and eluted with a mixture of n-hexane and ethyl acetate (3:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-acetylamino-5-(4-nitrophenylthio)thiazole (3.74 g, yield: 50.2%). mp: 250°-255° C. (dec.)

reactant | 2-acetylamino-5-chlorothiazole | 5 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | 4-nitrothiophenol | 4.83 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 7.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(4-nitrophenylthio)thiazole | 3.74 g, yield: 50.2% | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S2
